US08563735B2
1-(triisopropylsilyl)-1H-indol-6-ol
6-Benzyloxy-indole (1.0 g) was treated with NaH (135 mg) and triisopropylsilyl chloride (1.0 g) in tetrahydrofuran for 1 hour, purified by flash chromatography (98/2 ethyl acetate/hexanes), then debenzylated in ethanol (35 mL) using Pearlman's catalyst (0.19 g) and a hydrogen balloon.

reactant | 6-Benzyloxy-indole | 1.0 g | C(C1=CC=CC=C1)OC1=CC=C2C=CNC2=C1 | C15H13NO
reactant | NaH | 135 mg | [H-].[Na+]
reactant | triisopropylsilyl chloride | 1.0 g | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(triisopropylsilyl)-1H-indol-6-ol | C(C)(C)[Si](N1C=CC2=CC=C(C=C12)O)(C(C)C)C(C)C | C17H27NOSi
